US05969134
Methyl 2-[(4,6-dimethoxy-pyrimidin-2-yl)thio]-3-methoxy-3,3-diphenylpropionate
7.16 g (25 mmol) of methyl 2-hydroxy-3-methoxy-3,3-diphenylpropionate were dissolved in 50 ml of dichloromethane, 3 g (30 mmol) of triethylamine were added, and 3.2 g (28 mmol) of methanesulfonyl chloride were added dropwise while stirring. The mixture was stirred at room temperature for 2 h, washed with water, dried over magnesium sulfate and concentrated under reduced pressure. The residue was taken up in DMF and added dropwise at 0° C. to a suspension of 12.9 g (75 mmol) of 4,6-dimethoxypyrimidine-2-thiol and 8.4 g (100 mmol) of sodium bicarbonate in 100 ml of DMF. After stirring at room temperature for 2 h and at 60° C. for a further 2 h, the mixture was poured into 1 liter of ice-water, and the resulting precipitate was filtered off with suction. After drying, 3.19 g (29%) of a white powder remained.

reactant | methyl 2-hydroxy-3-methoxy-3,3-diphenylpropionate | 25 mmol, 7.16 g | OC(C(=O)OC)C(C1=CC=CC=C1)(C1=CC=CC=C1)OC | C17H18O4
reactant | triethylamine | 30 mmol, 3 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 28 mmol, 3.2 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | 4,6-dimethoxypyrimidine-2-thiol | 75 mmol, 12.9 g | COC1=NC(=NC(=C1)OC)S | C6H8N2O2S
reactant | sodium bicarbonate | 100 mmol, 8.4 g | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | Methyl 2-[(4,6-dimethoxy-pyrimidin-2-yl)thio]-3-methoxy-3,3-diphenylpropionate | COC1=NC(=NC(=C1)OC)SC(C(=O)OC)C(C1=CC=CC=C1)(C1=CC=CC=C1)OC | C23H24N2O5S
